Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hematochezia, abdominal pain
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
___ female with history of hypertension, type 2 
diabetes,
hyperlipidemia presenting with abdominal pain and bright red
blood per rectum.  She states that she had dinner last night
around 6 ___, ___ hours after that she had one episode of
abdominal pain was immediately followed by a loose bowel 
movement
with blood in the toilet bowl.

Subsequently then she has had 3 more events like this, the
abdominal pain immediately followed by bloody bowel movement.  
No
prior history.  No fevers chills chest pain or shortness of
breath.

She had an EGD in ___ for "abdominal stress/pain" remarkable 
for
thick gastric folds w biopsy showing "chemical gastropathy and
focal intestinal metaplasia". Her symptoms resolved once she
stopped taking aspirin. 

She had a screening colonoscopy in ___ which showed single 6mm
sessile hyperplastic polyp and diverticulosis both in ___
ascending colon, grade 1 internal hemorrhoids, rec for repeat in
___.
 
Past Medical History:
- Hypertension
- Diabetes (non-insulin dependent) 
- Osteoarthritis 
- Seasonal allergies 
 
Social History:
___
Family History:
No family hx bleeding disorders or GI cancers. 
 
Physical Exam:
Admission Physical Exam:
=======================
VITALS: T 98.1 BP: 155/64 HR: 65 O2 sat: 94% Ra
GENERAL: well developed, well nourished in NAD, younger than age
HEENT: sclera anicteric, MMM
CARDIAC: regular rate and rhythm, no murmurs, rubs, or gallops
LUNGS: CTABL, no wheezes, rales, or rhonchi, normal WOB on room
air
ABDOMEN: soft, non-tender, non-distended, bowel sounds present,
no rebound or guarding
GU: No foley
EXTREMITIES: warm, well perfused, no cyanosis or edema
NEURO: AOx3, face symmetric, moving all extremities against
gravity/with purpose 

Discharge Physical Exam:
========================
**PLEASE SEE ADDENDUM**
 
Pertinent Results:
Admission Labs:
==============
___ 12:47PM BLOOD WBC-9.6 RBC-4.55 Hgb-14.2 Hct-42.3 MCV-93 
MCH-31.2 MCHC-33.6 RDW-12.5 RDWSD-43.0 Plt ___
___ 12:47PM BLOOD Neuts-72.0* ___ Monos-6.4 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-6.93* AbsLymp-1.99 
AbsMono-0.62 AbsEos-0.03* AbsBaso-0.03
___ 12:47PM BLOOD ___ PTT-25.5 ___
___ 12:47PM BLOOD Glucose-149* UreaN-16 Creat-0.7 Na-137 
K-3.5 Cl-96 HCO3-26 AnGap-15
___ 06:47AM BLOOD Calcium-9.7 Phos-3.9 Mg-2.0
___ 05:22PM BLOOD Lactate-3.0*
___ 06:41PM BLOOD Lactate-2.2*

Discharge Labs:
=============

Imaging:

**PLEASE SEE ADDENDUM FOR OTHER STUDIES**
 
Brief Hospital Course:
ASSESSMENT & PLAN: 
___ year-old female, primarily ___, with HTN, 
DMII, and HLD, presenting with one day of abdominal pain and 
hematochezia, most likely caused by ischemic colitis. 

ACUTE PROBLEMS:
===============
#Hematochezia
Patient reported bright red blood per recturm ___ 
hrs after meal, and multiple episodes on ___. Her most recent 
colonoscopy was ___ with findings of a 6mm hyperplastic polyp 
which was removed. Hgb has dropped from 14.2 to 12.8 then 
rebounded to 13.6 without intervention. CT abdomen/pelvis was 
negative for evidence of diverticulitis. Lactate downtrending 
from 3.0 to 2.2. ___, PTT, and INR within normal limits. 

Our differential included ischemic colitis, lower GI bleed from 
polyp (previous hx and last colonoscopy was ___ years ago), GI 
malignancy, IBD (unlikely presentation given age but consistent 
with symptoms), upper GI
bleed from ulcers (unlikely to give bright red blood but 
consistent with pain after eating), mesenteric ischemia 
(unlikely given stable and non-toxic), infectious colitis 
(unlikely given lack of diarrhea, no leukocytosis, and 
stability) and diverticulitis (unlikely given negative CT).

Per discussion with the GI fellow who reviewed her scan, this is 
likely ischemic colitis. She will need follow up with 
gastroenterology and a colonoscopy as an outpatient. She was 
able to tolerate PO intake without any issues or further 
episodes of bright red blood per rectum. On discharge, her 
hemoglobin and hematocrit were 13.6/39.3. Our GI team will be in 
contact with the patient to schedule a colonoscopy as an 
outpatient. 

CHRONIC PROBLEMS:
=================
#Hypertension
We held her home hydrochlorothiazide, amlodipine, losartan, and 
atenolol in context of active bleeding. We restarted her 
losartan but did not restart her home amlodipine, hctz, or 
atenolol as she was normotensive while in house. 

#Hyperlipidemia 
-Continue home atorvastatin

#Diabetes Mellitus Type 2
-We held her home metformin while in house and gave her an 
insulin sliding scale. We discharged her on her home metformin. 

Transitional Issues
===================
1) Will need follow up with GI for a colonoscopy, our GI team 
will reach out to patient to schedule.
2) Well need a repeat CBC in 1 week.
3) Normotensive while in house, we did not restart home 
amlodipine/hctz/or atenolol, will need to be readdressed as 
outpatient. ASSESSMENT & PLAN:  
___ year-old female, primarily ___, with HTN, 
DMII,
and HLD, presenting with one day of abdominal pain and
hematochezia, most likely caused by ischemic colitis. 

ACUTE PROBLEMS:
===============
#Hematochezia
Patient reported bright red blood per recturm ___ 
hrs after meal, and multiple yesterday. Darker blood this 
morning. Her most recent colonoscopy was ___ with findings of 
a 6mm hyperplastic polyp which was
removed. Hgb has dropped from 14.2 to 12.8 since yesterday
morning. CT A/P was negative for evidence of diverticulitis.
Lactate downtrending from 3.0 to 2.2. ___, PTT, and INR within
normal limits. 
Our differential diagnosis includes ischemic colitis, lower GI 
bleed from polyp (previous hx and last colonoscopy was ___ years 
ago), GI malignancy, IBD (unlikely presentation given age but 
consistent with symptoms), upper GI
bleed from ulcers (unlikely to give bright red blood but
consistent with pain after eating), mesenteric ischemia 
(unlikely
given stable and non-toxic), infectious colitis (unlikely given
lack of diarrhea, no leukocytosis, and stability) and
diverticulitis (unlikely given negative CT).  

Per discussion with the GI fellow who reviewed her scan, this is
likely ischemic colitis. Will need follow up with 
gastroenterology and a colonoscopy as an outpatient. She was 
able to tolerate a clear diet and then a regular diet without 
any issues or further episodes of bright red blood per rectum. 
On discharge, her hemoglobin and hematocrit were 13.6/39.3

CHRONIC PROBLEMS:
=================
#Hypertension
We held her home hydrochlorothiazide, amlodipine, losartan, and
atenolol in context of active bleeding but were able to restart 
her medications on discharge. 

#Hyperlipidemia 
-Continue home atorvastatin

#Diabetes Mellitus Type 2
-We held her home metformin while in house and gave her an 
insulin sliding scale. We discharged her on her home metformin. 

Transitional Issues
===================
1) Will need follow up with GI for a colonoscopy 
2) Will need a repeat CBC in 1 week 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. amLODIPine 5 mg PO DAILY 
4. Atenolol 50 mg PO DAILY 
5. MetFORMIN (Glucophage) 1000 mg PO DAILY 
6. Losartan Potassium 100 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 10 mg PO QPM  
2.  Losartan Potassium 100 mg PO DAILY  
3.  MetFORMIN (Glucophage) 1000 mg PO DAILY  
4. HELD- amLODIPine 5 mg PO DAILY  This medication was held. Do 
not restart amLODIPine until you see your primary care doctor
5. HELD- Atenolol 50 mg PO DAILY  This medication was held. Do 
not restart Atenolol until you see your primary care doctor
6. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until you see your 
primary care doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
=================
1) Ischemic Colitis 

Secondary Diagnosis:
===================
1) Hypertension
2) Hyperlipidemia 
3) Diabetes Mellitus Type 2 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
================================================  
MEDICINE Discharge Worksheet  
================================================  
Dear Ms. ___,
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
-You were admitted because you had an episode of bright red 
blood in your stool
 
What was done for me while I was in the hospital?  
-We consulted our colleagues in GI who reviewed your CT scan and 
felt you had ischemic colitis. This is a common conditions and 
requires that you get a colonoscopy as an outpatient. 

What should I do when I leave the hospital?  
-Take all of your medications as prescribed
-Follow up with your GI and primary care provider
-___ well hydrated 
 
Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___